US08377923B2
Methanol (0.060 ml) was added to a solution of potassium tert-butoxide (130 mg) in THF (6 ml) under ice cooling, followed by stirring for 15 minutes under ice cooling. 2-fluoro-4-{4-methyl-5-[1-methyl-1-(2,4,6-trifluorophenoxy)ethyl]-4H-1,2,4-triazol-3-yl}benzonitrile (300 mg) was added to the reaction mixture, followed by stirring for one hour, while slowly elevating to room temperature. Water was added to the reaction solution, followed by extraction with ethyl acetate, the organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, and the solvent was then evaporated. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=100:0 to 30:70 linear gradient) to obtain 2-methoxy-4-{4-methyl-5-[1-methyl-1-(2,4,6-trifluorophenoxy)ethyl]-4H-1,2,4-triazol-3-yl}benzonitrile (192 mg), as a colorless solid.

reactant | Methanol | 0.060 ml | CO | CH4O
reactant | potassium tert-butoxide | 130 mg | CC(C)([O-])C.[K+]
reactant | 2-fluoro-4-{4-methyl-5-[1-methyl-1-(2,4,6-trifluorophenoxy)ethyl]-4H-1,2,4-triazol-3-yl}benzonitrile | 300 mg | FC1=C(C#N)C=CC(=C1)C1=NN=C(N1C)C(C)(OC1=C(C=C(C=C1F)F)F)C | C19H14F4N4O
reactant | Water | O | H2O
solvent | THF | 6 ml | C1CCOC1 | C4H8O
product | 2-methoxy-4-{4-methyl-5-[1-methyl-1-(2,4,6-trifluorophenoxy)ethyl]-4H-1,2,4-triazol-3-yl}benzonitrile | 192 mg | COC1=C(C#N)C=CC(=C1)C1=NN=C(N1C)C(C)(OC1=C(C=C(C=C1F)F)F)C | C20H17F3N4O2
